US07129235B2
1,2,3,6-tetrahydropyridine-4-carboxylic acid
Ethyl 1,2,3,6-tetrahydro-4-pyridinecarboxylate (44.7 g, 234 mmol) in dichloromethane (200 mL) was treated with aqueous K2CO3 (saturated) and the phases were separated. The aqueous layer was dried under reduced pressure and the residue was triturated with dichloromethane (100×3 mL) and dissolved in methanol (100 mL). The solution was treated with a saturated solution of NaOH (10 g, 250 mmol) in methanol (250 mL) and sodium methoxide in methanol (0.5M, 200 mL, 100 mmol). After stirring at room temperature for two days, the mixture was concentrated under reduced pressure. The residue was triturated with methanol (200×5 mL) and dried under reduced pressure to provide the title compound. 1H NMR (300 MHz, CD3OD) δ 6.60 (m, 1H), 3.38 (m, 2H), 2.88 (m, 2H), 2.30 (m, 2H).

reactant | Ethyl 1,2,3,6-tetrahydro-4-pyridinecarboxylate | 234 mmol, 44.7 g | N1CCC(=CC1)C(=O)OCC | C8H13NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 250 mmol, 10 g | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 250 mL | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 mmol, 0.5M, 200 mL | CO | CH4O
product | 1,2,3,6-tetrahydropyridine-4-carboxylic acid | N1CCC(=CC1)C(=O)O | C6H9NO2
